US07842713B2
Preparation of Intermediate 337c: Ethyl 7-(Acetyloxy)-2-methyl-1-benzofuran-5-carboxylate
Sodium acetate (15 g, 0.18 mol) was added under vigorous stirring to a solution of 3-(ethoxycarbonyl)-4-(5-methyl-3-furyl)but-3-enoic acid (14 g, 58 mmol) in 150 mL of acetic anhydride. The reaction mixture was refluxed for 3 h and evaporated in vacuum (˜20 mmHg) at 70° C. until the solvent distillation ceased. The obtained crude product was suspended in 300 mL of dichloromethane. The suspension was filtered. The precipitate was washed by 250 mL of dichloromethane. The combined solutions were washed by 350 mL of a saturated aqueous solution of NaHCO3 and evaporated in vacuum to dryness. The obtained crude product was chromatographed on a layer of silica gel (250×150 mm) with hexane/ethyl acetate mixture (3:1) as eluent to give the desired product 12.5 g (47 mmol, 81%) as a solid.

reactant | Sodium acetate | 0.18 mol, 15 g | C(C)(=O)[O-].[Na+]
reactant | 3-(ethoxycarbonyl)-4-(5-methyl-3-furyl)but-3-enoic acid | 58 mmol, 14 g | C(C)OC(=O)C(CC(=O)O)=CC1=COC(=C1)C | C12H14O5
solvent | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | Ethyl 7-(Acetyloxy)-2-methyl-1-benzofuran-5-carboxylate | 47 mmol, 12.5 g, 81% | C(C)(=O)OC1=CC(=CC=2C=C(OC21)C)C(=O)OCC | C14H14O5
